US04178166
Dry hydrogen chloride was passed into a solution of 218 g (1.0 mol) of 4,5-dichloro-2-dichloromethyleneimidazole in about 2 liters of dry toluene until the formation of a precipitate had ended (at least 1 mol). After cooling(the HCl addition took place exothermically), filtering off and drying, 235 g (89% of theory) of 4,5-dichloro-2-trichloromethyl-imidazole of melting point 210° C. (with decomposition) were obtained.

reactant | hydrogen chloride | Cl | ClH
reactant | 4,5-dichloro-2-dichloromethyleneimidazole | 1.0 mol, 218 g | ClC1=NC(N=C1Cl)=C(Cl)Cl | C4Cl4N2
solvent | toluene | about 2 liters | C1(=CC=CC=C1)C | C7H8
product | 4,5-dichloro-2-trichloromethyl-imidazole | 235 g, 89% | ClC=1N=C(NC1Cl)C(Cl)(Cl)Cl | C4HCl5N2
